Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / amoxicillin
 
Attending: ___.
 
Chief Complaint:
Fatigue, decreased PO intake
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx HTN, recently discovered pancreatic mass likely
pancreatic cancer, presenting with fatigue and decreased PO
intake for the last 4 days. 

She was in her usual state of help until last ___ she
presented to Urgent Care for a nonproductive cough as well as
increased weakness and fatigue, associated with decreased PO
intake. was found to have UA c/f UTI and was started on Macrobid
which she stopped today. She continues to have a cough. She is
staying with her daughter who has noted that she appears more
tired, sleeps all day on the couch, and barely eats anything for
the past 4 days. She has also had generalized weakness,
difficulty walking, and some mild dizziness but otherwise 
denying
any CP, pressure, dyspnea, palpitations or syncope. She has had
increasing abdominal pain in the last ___ weeks and so presented
to the ED. 

Here, she was found to be tachycardic with lactate of 2.3. CT of
abdomen and pelvis showed infiltrative pancreatic mass with
hepatic lesions, as well as filling defect in the lower lobe
pulmonary arterial branches. CTA of chest obtained showed
extensive bilateral pulmonary emboli with saddle embolus - she
was started on a heparin gtt. ___ team was consulted in ED.
Given pt's stability, age and comorbidities ___ recommends
conservative management with systemic anticoagulation, with no
recommendations for advanced therapies such as catheter directed
or systemic thrombolytics. Pending her malignancy workup, they
recommend transition to ___ for outpatient anticoagulation. 

She was originally supposed to have a pancreatic endoscopic
biopsy today at ___. No prior history of malignancy. No recent
travel or immobility other than being very sedentary the last 
few
weeks - otherwise very active at baseline. She has had no 
changed
to her medications recently, with no personal or family history
of clotting disorders. No history of significant bleeding or
Afib. 

 
Past Medical History:
HTN
 
Social History:
___
Family History:
No known family hx of VTE

 
Physical Exam:
========================
ADMISSION PHYSICAL EXAM:
========================
VITALS: Temp: 98.3 PO BP: 143/84 R Sitting HR: 103 RR: 18 O2 
sat:
93% O2 delivery: Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: Warm. No rash.
NEUROLOGIC: alert and oriented to person and place, reports date
as ___.

========================
DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 108) 
Temp: 97.5 (Tm 99.1), BP: 123/80 (109-153/68-80), HR: 97 
(74-113), RR: 18 (___), O2 sat: 97% (96-100), O2 delivery: Ra

GENERAL: Pleasant, lying in bed comfortably . Alert and 
interactive. In no acute distress. Intermittently mildly 
confused.
HEENT: normocephalic, atraumatic, MMM. PERRL.
CARDIAC: Regular rate and rhythm, normal S1/S2. no murmurs, 
rubs, or gallops . JVP not elevated.
LUNG: Appears in no respiratory distress, clear to auscultation 
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no 
hepatomegaly, no splenomegaly.   
EXT: Warm, well perfused, LLE shows 1+ edema to the knee, no RLE 
edema.  Non-tender.
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: A&Ox3, CN II-XII intact, motor and sensory function 
grossly intact  
SKIN: No significant rashes  

 
Pertinent Results:
--------------
Admission Labs
--------------
___ 10:43PM BLOOD WBC-15.5* RBC-4.57 Hgb-12.4 Hct-38.2 
MCV-84 MCH-27.1 MCHC-32.5 RDW-14.2 RDWSD-43.2 Plt ___
___ 11:48PM BLOOD Neuts-74.2* Lymphs-14.6* Monos-9.1 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-10.03* AbsLymp-1.98 
AbsMono-1.23* AbsEos-0.06 AbsBaso-0.04
___ 10:43PM BLOOD Neuts-73.6* Lymphs-15.4* Monos-8.9 
Eos-0.2* Baso-0.3 Im ___ AbsNeut-11.41* AbsLymp-2.38 
AbsMono-1.37* AbsEos-0.03* AbsBaso-0.05
___ 10:43PM BLOOD Plt ___
___ 10:43PM BLOOD Glucose-107* UreaN-42* Creat-0.8 Na-137 
K-5.2 Cl-98 HCO3-20* AnGap-19*
___ 11:48PM BLOOD ALT-24 AST-42* AlkPhos-298* TotBili-0.6
___ 11:48PM BLOOD Lipase-112*
___ 11:48PM BLOOD cTropnT-0.03*
___ 10:16AM BLOOD CK-MB-1 cTropnT-0.02* proBNP-259
___ 11:48PM BLOOD Albumin-3.6
___ 11:48PM BLOOD GreenHd-HOLD
___ 05:12AM URINE Color-Yellow Appear-Clear Sp ___
___ 05:12AM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 05:12AM URINE RBC-2 WBC-2 Bacteri-NONE Yeast-NONE Epi-0
___ 05:12AM URINE CastHy-1*
___ 05:12AM URINE Mucous-OCC*
--------------
Discharge Labs
--------------
___ 05:20AM BLOOD WBC-8.2 RBC-3.53* Hgb-9.7* Hct-29.8* 
MCV-84 MCH-27.5 MCHC-32.6 RDW-14.8 RDWSD-45.1 Plt ___
___ 05:20AM BLOOD Plt ___
___ 06:57AM BLOOD ___ PTT-32.3 ___
___ 05:20AM BLOOD Glucose-96 UreaN-26* Creat-0.8 Na-140 
K-4.4 Cl-103 HCO3-26 AnGap-11
___ 06:57AM BLOOD ALT-22 AST-39 AlkPhos-290* TotBili-0.5
___ 05:20AM BLOOD Calcium-9.2 Phos-2.5* Mg-1.8
___ 05:20AM BLOOD Calcium-9.2 Phos-2.5* Mg-1.8
--------------
Microbiology
--------------

 ___ 1:00 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
 
___ 5:12 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
___ 1:13 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date

--------------
IMAGING
--------------
___: Transthoracic Echo
The left atrial volume index is normal. There is normal left 
ventricular wall thickness with a normal
cavity size. There is suboptimal image quality to assess 
regional left ventricular function. Overall left
ventricular systolic function is normal. The visually estimated 
left ventricular ejection fraction is 70%.
There is no resting left ventricular outflow tract gradient. 
There is Grade I diastolic dysfunction. Normal
right ventricular cavity size with normal free wall motion. The 
aortic sinus diameter is normal for gender
with normal ascending aorta diameter for gender. The aortic arch 
diameter is normal. The aortic valve is
not well seen. There is mild aortic valve stenosis (valve area 
1.5-1.9 cm2). There is mild [1+] aortic
regurgitation. The mitral valve leaflets are mildly thickened 
with mild bileaflet systolic prolapse. There
is trivial mitral regurgitation. The tricuspid valve leaflets 
appear structurally normal. There is
physiologic tricuspid regurgitation. There is mild pulmonary 
artery systolic hypertension. There is no
pericardial effusion.

___: 
___ Dup Extext Bil:
1. Occlusive left lower extremity deep venous thrombosis in the 
involving the 
common femoral vein, deep femoral vein, one posterior tibial 
vein, and 
gastrocnemius vein. 
2. No deep venous thrombosis in the right lower extremity. 

CTA Chest:
1. Extensive bilateral pulmonary emboli with saddle embolus 
extending 
predominantly into the left main pulmonary artery as well as 
scattered lobar 
and extensive segmental pulmonary emboli as described above.  No 
evidence of 
right heart strain.  Small pericardial effusion. 
2. Scattered ground-glass opacification in the upper lobes, 
likely infectious 
or inflammatory in etiology. 
3. Left lower lobar atelectasis with mucoid impaction and left 
lower lobe 
bronchi.  Small left pleural effusion. 
4. Few thyroid nodules measuring up to 0.7 cm for which no 
further up is 
necessary. 
5. Please see the same-day report for findings within the 
abdomen and pelvis 

CTA Abd and Pelvis:
1. Severe attenuation of the main portal vein near the 
confluence and occluded 
splenic vein. 
2. Wedge-shaped area of hypoenhancement in the spleen is new 
from prior MRI, 
and is concerning for infarct.  This is less likely to reflect 
metastasis. 
3. Infiltrative pancreatic body mass with liver metastases, 
which have 
progressed compared to MRI ___. 
4. Filling defects in the lower lobe pulmonary arterial branches 
is concerning 
for pulmonary emboli.  Dedicated chest CTA should be obtained 
for complete 
evaluation. 

 
Brief Hospital Course:
================
PATIENT SUMMARY
================
Ms. ___ is an ___ w/ recently discovered 
pancreatic mass who presented w/ fatigue and decreased PO 
intake, subsequently found to have submassive pulmonary saddle 
embolus and attenuations concerning for metastasis.

================
ACUTE ISSUES
================
# Saddle Pulmonary Embolus
Pt found on imaging to have saddle pulmonary embolus in ED, 
likely in the setting of probable metastatic pancreatic 
malignancy. No evidence of RV strain on CTA or EKG, pro-BNP<500, 
troponinT<0.1, TTE pending. Consistent with nonmassive PE but 
with high risk of decompensation given significant saddle 
embolism on CTA. Patient was started on heparin gtt. Given 
hemodynamic stability, comorbidities, and goals of care, 
decision was made not to pursue thrombolytics or 
catheter-directed thrombolysis per ___. Patient transitioned 
from heparin gtt to lovenox on ___ for PE in setting of likely 
malignancy. Received TTE on ___ with no evidence of acute 
thrombus or septal defect. Patient subsequently remained 
hemodynamically stable and asymptomatic, and was clinically 
stable on discharge with lovenox. Will have sufficient supply of 
lovenox until PCP ___. Patient and family will decide on 
whether to continue lovenox (preferred agent in setting of 
pancreatic cancer) at PCP appointment given associated cost. If 
they decide to initiate warfarin, PCP ___ write for lovenox 
again and bridge to warfarin. 

# Pancreatic Mass
Pancreatic mass and multiple liver masses visualized on imaging 
strongly suspicious for stage IV pancreatic cancer with liver 
mets. ___ conversation was had between patient, family, and 
___ resident, and pt and family were leaning towards less 
aggressive, more palliative measures, though expressed that 
they'd like for someone to sit down with them and discuss the 
risks and benefits of a biopsy and what treatment plans would 
look like. Heme/onc aware of patient and would like to treat the 
acute issue of PE first, then have further ___ conversations to 
determine whether to pursue biopsy and treatment in the 
outpatient setting. Patient referred for outpatient follow-up 
with oncology.

# Splenic Vein Thrombosis
# Portal Vein Thrombosis
Splenic and portal vein thrombosis visualized on CTA likely 
secondary to metastatic pancreatic malignancy. 

# Splenic Infarct
Likely not related to splenic vein thrombosis. Concerning for 
paradoxical embolus vs cardioembolic phenomenon. TTE did not 
show signs of thrombus, though a bubble study was not performed 
and septal defect can not be definitively ruled out. 

# PNA
Patient presented with dry cough, CXR findings with possible PNA 
and CTA with ground glass opacities in upper lobes secondary to 
possible infection or inflammation in setting of PE. WBC 
decreased from 15.5 to 8.7 after initiation of antibiotics, and 
Ms. ___ completed a full 5 day course of levofloxacin. On 
discharge, she showed no clinical signs of infection, and had 
normal range WBC.

#Chronic, Incomplete Urinary Retention
Patient's daughter reported less frequent voiding prior to 
admission. Patient herself had also been noticing changes in her 
urinary habits. Since admission on ___, patient had multiple 
episodes of urinary retention. On ___, Patient she required 
intermittent straight cath for bladder scan >500. On ___, she 
spontaneously voided 210cc with ~300cc of post-void residual. On 
___, she had a BS>700cc and was straight cathed 740ccs. She is 
not taking any medications that would put her at risk for 
urinary retention, no pain or signs of obstruction on CT. UA was 
negative. Given that she experienced retention during her last 
hospitalization, it possible that current retention is due to 
discomfort of being in hospital and decreased mobilization. 
After discussion with family, will discharge with foley and has 
outpatient follow-up with Urology (arranged with consult team) 
for urinary retention. She has an appointment with urology 10 
days after discharge, at which a voiding trial will be 
performed. 

===============
CHRONIC ISSUES:
===============
# HTN: 
Home losartan was held in setting of normotension and PE. Will 
re-start on discharge given elevated and stable blood pressures.

===================
TRANSITIONAL ISSUES
===================
[]Clarify GOC given apparent preference not to pursue aggressive 
treatment for probable metastatic pancreatic cancer. 
[] Will have sufficient supply of lovenox until PCP ___. 
PCP confirmed that PCP office can manage warfarin bridge. 
Patient and family will decide on whether to continue lovenox at 
PCP ___.
[ ] Patient will have follow-up with urology given that she is 
being discharged with indwelling foley catheter due to urinary 
retention. 

New Medications: Lovenox 60mg twice daily SQ

Ms. ___ was seen and examined on the day of discharge and 
is clinically stable for discharge today. The total time spent 
today on discharge planning, counseling and coordination of care 
today was greater than 30 minutes.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 25 mg PO DAILY 

 
Discharge Medications:
1.  Enoxaparin Sodium 60 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 60 mg/0.6 mL 60 mg SQ Twice daily Disp #*7 
Syringe Refills:*0 
2.  Losartan Potassium 25 mg PO DAILY  
3.Durable Medical Equipment
Rolling Walker
Diagnosis: Neoplastic related fatigue (R53.0)
Prognosis: Good
Duration: 13 months
4.Durable Medical Equipment
Wheelchair
Diagnosis: Neoplastic related fatigue (R53.0)
Prognosis: Good
Duration: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
===================
PRIMARY DIAGNOSES
===================
Saddle Pulmonary Embolism
Pancreatic Mass
Splenic Vein Thrombosis
Hepatic Vein Thrombosis
Splenic Infarct
Pneumonia

===================
SECONDARY DIAGNOSES
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for fatigue and decreased appetite, and 
found to have a large blood clot in your lungs. 
- You were also found to have masses in your pancreas and liver 
concerning for metastatic cancer.

What was done for me while I was in the hospital?  
- You were treated with anticoagulation for the bloods clots.
- Biopsy of masses was not performed due to the presence of 
large blood clots requiring anticoagulation. 
- You were referred to oncology to follow-up after discharge.
- You were treated with antibiotics for a possible infection in 
your lungs.

What should I do when I leave the hospital?  
- Please continue to take all of your medications as directed. 
It is especially important that you continue your lovenox 
injections.
- Please attend all of your follow-up appointments.

Thank you!

Sincerely,  
Your ___ Care Team 
 
Followup Instructions:
___